US05141952
STEP B: Diethyl 2-hydroxy-4-methyl-tetrahydro-2H-pyran-2,6-dicarboxylate (Isomer A and Isomer B)
840 mg of 4-formyl-1-methyl pyridinium benzensulfonate were added to a solution of 740 mg of the product of Step A, 15 ml of methylene chloride and 5 ml of dimethylformamide and the reaction mixture was stirred for 45 minutes. 1 ml of diazobicyclo[5,4,0]-undec-7-ene was added and the reaction mixture was stirred for 45 minutes. After cooling down to 5°-10° C., 5 ml of a saturated aqueous solution of oxalic acid were added and the reaction mixture was stirred for 1 hour. Extraction took place with methylene chloride followed by washing with a solution of sodium bicarbonate, drying, filtering and bringing to dryness to obtain 630 mg of product which was chromatographed on silica, eluting with a cyclohexane-ethyl acetate (9-1) mixture to obtain 160 mg of Isomer A and 125 mg of Isomer B.

reactant | 4-formyl-1-methyl pyridinium benzensulfonate | 840 mg | C1(=CC=CC=C1)S(=O)(=O)[O-].C(=O)C1=CC=[N+](C=C1)C
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
reactant | diazobicyclo[5,4,0]-undec-7-ene | 1 ml | [N+](=[N-])=C1C2CCCC=C2CCCC1 | C11H16N2
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | Diethyl 2-hydroxy-4-methyl-tetrahydro-2H-pyran-2,6-dicarboxylate | 630 mg | OC1(OC(CC(C1)C)C(=O)OCC)C(=O)OCC | C12H20O6
